US07786132B2
1-(2-{4-(5-Chlorothiophen-2-yl)-5-[3-(hydroxymethyl)phenyl]pyrimidin-2-ylamino}ethyl)-5,5-dimethylimidazolidine-2,4-dione
The title compound was prepared from 1-{2-[5-bromo-4-(5-chlorothiophen-2-yl)pyrimidin-2-ylamino]ethyl}-5,5-dimethylimidazolidine-2,4-dione and 3-(hydroxymethyl)phenylboronic acid in a manner analogous to Example 269. MS (M+H)+ 472.

reactant | 1-{2-[5-bromo-4-(5-chlorothiophen-2-yl)pyrimidin-2-ylamino]ethyl}-5,5-dimethylimidazolidine-2,4-dione | BrC=1C(=NC(=NC1)NCCN1C(NC(C1(C)C)=O)=O)C=1SC(=CC1)Cl | C15H15BrClN5O2S
reactant | 3-(hydroxymethyl)phenylboronic acid | OCC=1C=C(C=CC1)B(O)O | C7H9BO3
product | 1-(2-{4-(5-Chlorothiophen-2-yl)-5-[3-(hydroxymethyl)phenyl]pyrimidin-2-ylamino}ethyl)-5,5-dimethylimidazolidine-2,4-dione | ClC1=CC=C(S1)C1=NC(=NC=C1C1=CC(=CC=C1)CO)NCCN1C(NC(C1(C)C)=O)=O | C22H22ClN5O3S
